US06936602B1
In THF (10 ml) was dissolved t-butyl N-(4-bromo-2-formylphenyl)-N-cyclopropyl-4-aminobutyrate (1 g). To the solution was added potassium t-butoxide (0.59 g), and the mixture was heated at 55° C. for 1.5 hours. The solvent was evaporated, which was extracted with water. The aqueous layer was washed with ethyl acetate, and neutralized by addition of 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated to give 7-bromo-1-cyclopropyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (0.44 g) as yellow crystals.

reactant | t-butyl N-(4-bromo-2-formylphenyl)-N-cyclopropyl-4-aminobutyrate | 1 g | BrC1=CC(=C(C=C1)N(CCCC(=O)OC(C)(C)C)C1CC1)C=O | C18H24BrNO3
reactant | potassium t-butoxide | 0.59 g | CC(C)([O-])C.[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-bromo-1-cyclopropyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 0.44 g | BrC=1C=CC2=C(C=C(CCN2C2CC2)C(=O)O)C1 | C14H14BrNO2
